US04537924
1,3-Bis[2,2,6,6-tetramethyl-4-piperidylamino]cyclobutenediylium-2,4-diolate
In an autoclave, 114.0 g of quadratic acid (1.0 mole), 390.8 g of 4-amino-2,2,6,6-tetramethylpiperidine (2.5 moles), and 800 cc of isopropanol were heated for five hours to 140° C. and then for 15 hours to 210° C. After cooling, the solid was suctioned off and dried. The thusobtained crude product was eluted three times with boiling methanol, washed with cold methanol, and then exhaustively dried, yielding as the remainder 353.1 g of white crystals (yield: 90.4%, mp>400° C., decomposition).

reactant | quadratic acid | 1.0 mole, 114.0 g | C1(=C(C(=O)C1=O)O)O | C4H2O4
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 2.5 moles, 390.8 g | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
solvent | isopropanol | 800 cc | C(C)(C)O | C3H8O
product | 1,3-Bis[2,2,6,6-tetramethyl-4-piperidylamino]cyclobutenediylium-2,4-diolate | 353.1 g, yield: 90.4% | CC1(NC(CC(C1)N[C+]1[C+](C(=C1[O-])NC1CC(NC(C1)(C)C)(C)C)[O-])(C)C)C | InChI=1S/C22H39N4O2/c1-19(2)9-13(10-20(3,4)25-19)23-15-17(27)16(18(15)28)24-14-11-21(5,6)26-22(7,8)12-14/h13-14,23-27H,9-12H2,1-8H3/q+1/p-1
